US04323681
4-Amino-2-methylthio-5-pyrimidinecarbothioamide
Hydrogen sulfide is passed through a suspension of 4-amino-2-methylthio-5-pyrimidinecarbonitrile (16.621 g., 0.100 mole) in a mixture of pyridine (150 ml.) and triethylamine (14.0 ml., 0.100 mole) for 2 hours. The nitrile dissolves in the course of the reaction. After ca. 1.75 hours a solid begins to separate. The mixture is poured into water (500 ml.), and the yellow solid collected by filtration washed with water, dried at 100° C., house vac. The yield of product melting at 230° C. dec. (uncorr.) is 18.93 (94.5%). This material is recrystallized from dimethylformamide-water (Darco G-60) to give yellow rods melting at 229° C. dec. (uncorr.) in a yield of 15.685 g. (78.3%).

reactant | Hydrogen sulfide | S | H2S
reactant | 4-amino-2-methylthio-5-pyrimidinecarbonitrile | 0.100 mole, 16.621 g | NC1=NC(=NC=C1C#N)SC | C6H6N4S
reactant | triethylamine | 0.100 mole, 14.0 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 4-Amino-2-methylthio-5-pyrimidinecarbothioamide | NC1=NC(=NC=C1C(N)=S)SC | C6H8N4S2
